US04166734
N-((methoxycarbonyl)oxy)-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide
32 of N-hydroxy-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide and the product prepared from 0.8 g N-methylimidazole and 0.9 g of methoxycarbonylchloride were reacted as a stirred suspension in 30 ml of methylene chloride for 3 hours. The resulting mixture was poured into water. The methylene chloride layer was dried and evaporated to give 1.2 g (33% yield) of yellow solid product, m.p. 112-113° C. (d,1) isomer form.

reactant | N-hydroxy-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide | ON(C(C(C)NC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-])=O)C | C11H14N4O6
reactant | N-methylimidazole | 0.8 g | CN1C=NC=C1 | C4H6N2
reactant | methoxycarbonylchloride | 0.9 g | COC(=O)Cl | C2H3ClO2
reactant | water | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-((methoxycarbonyl)oxy)-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide | 1.2 g, 33% yield | COC(=O)ON(C(C(C)NC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-])=O)C | C13H16N4O8
